US05969139
A solution of 1.94 g of 5,5-dimethyl-1,3-cyclohexanedione and 1.5 ml of a 25% aqueous solution of ammonia in 10 ml of absolute ethanol was heated at reflux under an atmosphere of nitrogen for 2 hours. The mixture was cooled to room temperature and 1.588 g of 4-bromo-3-nitrobenzaldehyde were added. The mixture was then heated at reflux for a further 18 hours, cooled and filtered. The residue was washed with 25 ml of cold diethyl ether and crystallized from dimethylformamide/water to give 2.36 g of 9-(4-bromo-3-nitro-phenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione as a yellow crystalline solid of melting point >300° C.

reactant | 5,5-dimethyl-1,3-cyclohexanedione | 1.94 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | ammonia | N | H3N
reactant | 4-bromo-3-nitrobenzaldehyde | 1.588 g | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 9-(4-bromo-3-nitro-phenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | 2.36 g | BrC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)[N+](=O)[O-] | C23H25BrN2O4
